* ISCAS'85 c17 -- six NAND2 gates, five inputs, two outputs -- in the style of the
* c7552 deck in external/benchmarkExt/iscas85_benchmark_circuit/: its `nand2` subcircuit,
* its PSP103 model cards, and RC wire subcircuits with its element values (a star per net
* here: driver pin to each load pin; c7552's generator also builds trees). Generated.
*
* c17.bench: 10=NAND(1,3) 11=NAND(3,6) 16=NAND(2,11) 19=NAND(11,7) 22=NAND(10,16) 23=NAND(16,19)
*
*   cargo run --release -p va-cli -- sim circuits/benchmark/iscas85/c17.net \
*       --model external/code/psp103/vacode/psp103.va --tran

.include ../../../external/benchmarkExt/iscas85_benchmark_circuit/Modelcards/psp103_nmos.mod
.include ../../../external/benchmarkExt/iscas85_benchmark_circuit/Modelcards/psp103_pmos.mod

Vdd vdd gnd DC 1.8
V1 g1_0 gnd PULSE(0 1.8 0p 100p 100p 0.9n 2n)
V2 g2_0 gnd PULSE(0 1.8 100p 100p 100p 1.9n 4n)
V3 g3_0 gnd PULSE(0 1.8 200p 100p 100p 2.9n 6n)
V6 g6_0 gnd PULSE(0 1.8 300p 100p 100p 3.9n 8n)
V7 g7_0 gnd PULSE(0 1.8 400p 100p 100p 4.9n 10n)

* the nets: C at every pin, R from the driver pin to each load pin
.subckt netg1 g1_0 g1_1 gnd
C0 g1_0 gnd 2.080806f
C1 g1_1 gnd 2.080806f
R1 g1_0 g1_1 2.224404
.ends
XW1 g1_0 g1_1 gnd netg1
.subckt netg2 g2_0 g2_1 gnd
C0 g2_0 gnd 2.080806f
C1 g2_1 gnd 2.080806f
R1 g2_0 g2_1 2.224404
.ends
XW2 g2_0 g2_1 gnd netg2
.subckt netg3 g3_0 g3_1 g3_2 gnd
C0 g3_0 gnd 2.080806f
C1 g3_1 gnd 2.080806f
R1 g3_0 g3_1 2.224404
C2 g3_2 gnd 2.080806f
R2 g3_0 g3_2 2.224404
.ends
XW3 g3_0 g3_1 g3_2 gnd netg3
.subckt netg6 g6_0 g6_1 gnd
C0 g6_0 gnd 2.080806f
C1 g6_1 gnd 2.080806f
R1 g6_0 g6_1 2.224404
.ends
XW6 g6_0 g6_1 gnd netg6
.subckt netg7 g7_0 g7_1 gnd
C0 g7_0 gnd 2.080806f
C1 g7_1 gnd 2.080806f
R1 g7_0 g7_1 2.224404
.ends
XW7 g7_0 g7_1 gnd netg7
.subckt netg10 g10_0 g10_1 gnd
C0 g10_0 gnd 2.080806f
C1 g10_1 gnd 2.080806f
R1 g10_0 g10_1 2.224404
.ends
XW10 g10_0 g10_1 gnd netg10
.subckt netg11 g11_0 g11_1 g11_2 gnd
C0 g11_0 gnd 2.080806f
C1 g11_1 gnd 2.080806f
R1 g11_0 g11_1 2.224404
C2 g11_2 gnd 2.080806f
R2 g11_0 g11_2 2.224404
.ends
XW11 g11_0 g11_1 g11_2 gnd netg11
.subckt netg16 g16_0 g16_1 g16_2 gnd
C0 g16_0 gnd 2.080806f
C1 g16_1 gnd 2.080806f
R1 g16_0 g16_1 2.224404
C2 g16_2 gnd 2.080806f
R2 g16_0 g16_2 2.224404
.ends
XW16 g16_0 g16_1 g16_2 gnd netg16
.subckt netg19 g19_0 g19_1 gnd
C0 g19_0 gnd 2.080806f
C1 g19_1 gnd 2.080806f
R1 g19_0 g19_1 2.224404
.ends
XW19 g19_0 g19_1 gnd netg19

* the gates (c7552's nand2, verbatim)
.subckt nand2 a b vdd vss z
nm01 vdd   a     z     vdd pch  l=0.12u  w=0.77u  as=0.20405p  ad=0.20405p  ps=2.07u   pd=2.07u
nm02 vss   a     sig3  vss nch  l=0.12u  w=0.66u  as=0.1749p   ad=0.1749p   ps=1.85u   pd=1.85u
nm03 z     b     vdd   vdd pch  l=0.12u  w=0.77u  as=0.20405p  ad=0.20405p  ps=2.07u   pd=2.07u
nm04 sig3  b     z     vss nch  l=0.12u  w=0.66u  as=0.1749p   ad=0.1749p   ps=1.85u   pd=1.85u
c4  a     vss   0.549f
c5  b     vss   0.578f
c1  z     vss   0.609f
.ends
XG10 g1_1 g3_1 vdd gnd g10_0 nand2
XG11 g3_2 g6_1 vdd gnd g11_0 nand2
XG16 g2_1 g11_1 vdd gnd g16_0 nand2
XG19 g11_2 g7_1 vdd gnd g19_0 nand2
XG22 g10_1 g16_1 vdd gnd g22_0 nand2
XG23 g16_2 g19_1 vdd gnd g23_0 nand2

.tran 1p 12n
.end
