* CMOS NAND2 -- bsimimg
*
* Out = NOT(A AND B): a series NMOS stack pulling down, a parallel PMOS pair pulling up.
* The topology is the LTspice deck it came from, terminal for terminal:
*
*     M1 Out  A    N001 Vss NMOS      M3 Vdd  B  Out Vdd PMOS
*     M2 N001 B    Vss  Vss NMOS      M4 Vdd  A  Out Vdd PMOS
*
* `M<name> d g s b` there becomes `X<name> d g s b <module>` here, because `M` in this netlist
* parser is the three-terminal form; `X` is the general one and takes any port count.
*
* Note the PMOS pair keeps the source/drain ordering of the original (`d` at Vdd, `s` at Out),
* which is the reverse of the usual pull-up convention. A MOSFET model decides for itself which
* terminal is the source from the applied bias, so this is the same circuit either way -- it is
* kept as written so the deck can be diffed against its origin.
*
* There is no model card: every parameter is the `.va` file's default, so these are not
* calibrated devices and the numbers are not anyone's silicon. What the deck establishes is
* that the model elaborates, differentiates, and solves a series stack with a floating internal
* node -- which is the part a single transistor never exercises.
*
*   cargo run -p va-cli -- sim circuits/benchmark/nand/bsimimg.net \
*       --model external/code/bsimimg/vacode/bsimimg.va --report out
*
* The sweep holds B high and walks A, which drives the NAND through its worst case: the
* pull-down is two devices in series and N001 floats between them.
VDD  vdd  gnd DC 1.2
VA   a    gnd DC 0
VB   b    gnd DC 1.2
XM1  out  a    n001 gnd  tn1  bsimimg TYPE=1
XM2  n001 b    gnd  gnd  tn2  bsimimg TYPE=1
XM3  vdd  b    out  vdd  tn3  bsimimg TYPE=-1
XM4  vdd  a    out  vdd  tn4  bsimimg TYPE=-1
* The thermal port needs terminating; 1 mOhm to ground is isothermal, which is what a deck
* with no `rth` in its card would be anyway. Each instance gets its own node. Before 1.4.1,
* two instances sharing one thermal node gave a singular matrix (a bug in this simulator, not
* the circuit -- see `nand/README.md`). Sharing works now and gives the same curve; separate
* nodes are kept so results stay comparable with earlier runs.
RT1  tn1  gnd 1e-3
RT2  tn2  gnd 1e-3
RT3  tn3  gnd 1e-3
RT4  tn4  gnd 1e-3
.dc VA 0 1.2 0.012
.end
