* NMOS NAND2 with a resistor pull-up -- this project's own `models/mosfet.va`.
*
* The one deck in this folder that needs nothing from `external/`. The zoo model is a
* three-terminal square-law NMOS with no PMOS mode, so this is the pre-CMOS form of the gate:
* a series NMOS stack pulling down against a resistor pulling up. Out is low only when both
* inputs are high, which is still a NAND -- with an asymmetric low level, as the ratioed logic
* it is.
*
*   cargo run -p va-cli -- sim circuits/benchmark/nand/zoo_nmos.net \
*       --model models/mosfet.va --report out
*
* **RLK is not part of the circuit.** With M1 off, `n001` -- between the two series devices --
* has no DC path to anything, and the matrix is singular: `models/mosfet.va` is an ideal
* square-law device with no junction leakage, so nothing else gives that node a path. A real
* simulator supplies one through `gmin`, which this project implements in
* `va_core::convergence` but does not switch on (`NewtonConfig::gmin_steps` is 0). The 1 GOhm
* resistor stands in for it. Delete it and this deck fails with "singular matrix during linear
* solve" -- which is the point of documenting it here rather than quietly shipping the
* workaround.
*
* Expected: V(out) = 5 V at A = 0, ~0.115 V at A = 5 V.
VDD vdd  gnd DC 5
VA  a    gnd DC 0
VB  b    gnd DC 5
RL  vdd  out 10k
M1  out  a n001 mosfet
M2  n001 b gnd  mosfet
RLK n001 gnd 1e9
.dc VA 0 5 0.05
.end
